US04464371
(2R,4R)--3--[S--[4--(Dipropylsulfamoyl)benzoyl]--3--mercaptopropionyl]--2--(2--hydroxyphenyl)--4--thiazolidinecarboxilic acid
9.7 g of (2R,4R)--2--(2--hydroxyphenyl) --3--(3--mercaptopropionyl)--4--thiazolidinecarboxylic acid and 12.9 g of potassium carbonate are dissolved in 80 ml of water, and 40 ml of ethyl ether solution of 9.4 g of 4--(dipropylsulfamoyl)benzoyl chloride is added dropwise under ice-cooling. After the addition the reaction mixture is stirred for 1 hour under ice-cooling and for another 1 hour at room temperature. Ether is removed in vacuo and residual solution is adjusted to pH 1 with 6N hydrochloric acid. Produced oily residue is extracted with ethyl acetate. The organic layer is washed with water and dried over anhydrous magnesium sulfate and concentrated in vacuo. The resulting residue is purified by silica gel column chromatography to give 10.5 g of the titled compound as amorphous powder.

reactant | (2R,4R)--2--(2--hydroxyphenyl) --3--(3--mercaptopropionyl)--4--thiazolidinecarboxylic acid | 9.7 g | OC1=C(C=CC=C1)[C@H]1SC[C@H](N1C(CCS)=O)C(=O)O | C13H15NO4S2
reactant | potassium carbonate | 12.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl ether | 40 ml | C(C)OCC | C4H10O
reactant | 4--(dipropylsulfamoyl)benzoyl chloride | 9.4 g | C(CC)N(S(=O)(=O)C1=CC=C(C(=O)Cl)C=C1)CCC | C13H18ClNO3S
solvent | water | 80 ml | O | H2O
product | (2R,4R)--3--[S--[4--(Dipropylsulfamoyl)benzoyl]--3--mercaptopropionyl]--2--(2--hydroxyphenyl)--4--thiazolidinecarboxilic acid | 10.5 g | C(CC)N(S(=O)(=O)C1=CC=C(C(=O)SCCC(=O)N2[C@H](SC[C@H]2C(=O)O)C2=C(C=CC=C2)O)C=C1)CCC | C26H32N2O7S3
